Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
"So suicidal that I couldn't see straight"
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ is ___ with reported history of bipolar 
depression, anxiety and PTSD self-presenting to the ___ ED 
with "pseudoseizures, scratching, cutting, and suicidal 
ideation." 

In the ED, patient told staff she that she had presented to the 
___ ED yesterday because of pseudoseizures all day.  She was 
concerned that her VP shunt could have been malfunctioning. Upon 
discharge from ___ ED, she decided to come to ___ for a 
second opinion and while in the car started thinking about 
scratching, then cutting, then suicide." She has noticed a 
correlation between stress and the frequency of her 
pseudoseizures.

Recent stressors include:
- Her boyfriend's mental health issues. Told ED staff he had a 
suicide attempt by hanging two days ago, but upon admission says 
she assumed he had a suicide attempt "because he is no longer 
allowed to be alone in his room and why else would his parents 
make that rule?" 
- Her parents divorce; she says they told her it is her fault.
- Death of her sister ___ years ago.
- Her father's recent heart attack. 
- Her ___ year old brothers emotional attack on her.
- Being the "only one" who is trying to intervene on her ___ year 
old brother's using drugs

Patient reports ongoing urges to cut herself.  She hears the 
devil say "kill yourself." When asked if she wants to die, she 
says that she had a plan to "stab [herself] in the chest with a 
knife." She'll use a steak knife. She then says that when she 
told her mom that she did not care.  At which point she asked 
the interviewer what else does she have to do to show her her 
that she is "trying to get [her] attention." 

She characterizes her depression as:
Crying all day, staying in bed and not wanting to clean herself.
Decreased sleep (2 hours a night for 2 weeks; trazodone has not 
worked; racing thoughts worrying about her family at times)
Anhedonia
Decreased appetite, but weight gain (35 pounds/year)
Horrible concentration, poor memory.

Of note, family with concern that she is making a habit of 
coming to the ED and getting admitted to psychiatric units.  
Multiple recent ED presentations, including on ___ when she was 
seen at ___, ___ ED and ___. 

In the ED, patient received her home medications as well as 
zofran twice for nausea.
 
On arrival to this unit, patient is animated and repetitively 
states that she feels anxious and like she will "flip out."  She 
says people were rude to her earlier which she cannot tolerate 
and she thinks she'll loose it.  We will know it if she does 
because she will "punch walls" and "kick things."  Requests STD 
testing including HIV.
 
Past Medical History:
Spina bifida
Hydrocephalus s/p VP shunt s/p ~15 revisions by Dr. ___ at
___ ___, most recently when pt was in ___ grade
Neuropathy 
Nonepileptic Episodes
Grand mal seizures (5) when her VP shunt malfunctioned
Club feet s/p surgical repair
*Denies history of head injuries.

PAST PSYCHIATRIC HISTORY:
Dx: Depression, bipolar, anxiety, PTSD (secondary to "seizures
and sexual abuse") per patient
Hospitalizations: Pt reports 15 inpatient psychiatric admissions
over the past year and half, including 2 admissions at 
___,
___ at ___, 1 at ___ in ___. Most
recent admissions were at ___ ___ and 
___
in ___.  
Per discharge summary from ___ dated ___ pt
was admitted with HI towards her boyfriend at this time, she was
noted to have "limited coping skills and a childlike affect," 
was
stabilized on trazodone, seroquel, thorazine prn, depakote, and
lexapro and discharged home with plan for outpatient day 
program.
Current treaters and treatment: 
-Psychiatrist ___ ___ Associates: ___
-Psychologist/counselor: ___ 
-___ program team leader is ___: ___
Medication and ECT trials: Trazodone, seroquel, thorazine,
depakote, lexapro, venlafaxine, lamictal, ativan, prazosin. No
ECT.
Self-injury: Scratches herself with her nails - at times draws
blood.
Suicide attempts:  One episode of cutting 3 months ago: pt cut
her bilateral arms 7 times (short cuts perpendicular to arm) 
with
a serrated kitchen knife. Called her case worker afterwards
because did not want to leave her ___ year old brother alone. Per
___ case worker: superficial cuts that did not require 
stitches.
Harm to others: denies
Access to weapons: Knives, but no guns.
 
Social History:
-B/R: ___, grew up with mom, dad, brothers, sister. States 
her childhood was happy for the most part but she was teased a 
lot at school. Older sister passed away from unintentional drug 
overdose in ___.
-Housing: Lives at her parents house in ___ with mom, 
dad, and brother age ___.  ___ fights" with mom and feels 
like "mom misunderstands" her.
-Education: Graduated high school
-Work: ___
-Financial: On SSI for spina bifida
-Marital status: Single, has a boyfriend of two months with 
schizoaffective disorder reportedly
-Children: None
-Legal: ___
-Trauma: Reports "I was raped two, no three times, and the 
police didn't do anything about it." States she was raped by 
three different male friends.  Reports "mom hits" her in the 
face "for not controlling her mouth" and she will hit her mom 
back. Says once "when [she] was hitting [herself], her father 
hugged her from behind and "squeezed so hard she couldn't 
breathe." 
Brothers are "verbally abussive" calling her derogatory names.
-___ active with her boyfriend of 2 months.  
Recently her exboyfriend made her cheat on her current 
boyfriend. Reports that she is truly bisexual but only sleeps 
with men.

SUBSTANCE ABUSE HISTORY:
Tobacco: denies
Alcohol Drank once on ___ birthday, vomited and has not tried 
again.
Illicits: 
-MJ: Smokes "1 gram a day," last use ___
-Benzos: Prescribed ativan 0.5 mg po tid prn anxiety, has been 
taking up to 9 mg daily.  Sometimes has withdrawal characterized 
as shaking, agitation and stomach pain.
-Opiates: Patient took 1 percocet yesterday for head and neck 
pain, denies heroin use
-Denies meth, crack, cocaine, stimulants, PCP, ___ salts, 
K2, huffing

FORENSIC HISTORY: ___
Family History:
-Father: ___ MIs
-Mother: ___

FAMILY PSYCHIATRIC HISTORY:
-Maternal aunt and sister with bipolar
-Sister (deceased) and 2 cousins with heroin, cocaine abuse
-Mother, father, brother with depression
-Brothers with depression
-___ family hx of schizophrenia or suicide
 
Physical Exam:
PHYSICAL EXAMINATION (as performed by Dr. ___ on admission): 
VS: BP: 124/75  HR:113  Temp: 98.9  RR: 17  O2 sat: 99% RA 
 
MENTAL STATUS EXAM:
Appearance: Obese, short, unkempt young woman wearing a hospital 
gown sitting in a chair.
Behavior/attitude: Dramatic; leaning forward to tell stories. 
Good eye contact.
Speech: Normal rate and tone. Loud, frequent swear words, 
sarcastic.
Mood: "Anxious" "going to flip out"
Affect: Broad range of emotions from anger to smiiling.
Thought content: Perseverates on flipping out and family 
discord.
Thought process: Linear, goal directed
Perception: Does not appear to be responding to internal 
stimuli. AH of devil as above. Denies delusions, paranoia.
SI/HI: SI for ___ years with plan to stab herself in chest with 
a steak knife. Denies HI.  
Insight and Judgement: Poor, frequently in and out of ED and 
inpatient settings with poor follow up
 
COGNITIVE EXAM:
Orientation: oriented to person [x], place [x], day [x], month 
[x], year [x], situation [x]
Attention/concentration: Able to recite MOYB
Memory: Required repetition of three words to have registration, 
remote recall ___. 
Calculations: correctly calculates 7 quarters in $1.75
Fund of knowledge: ___ is president, before him ___. 
___, but "no clue" who was before him.
Proverbs: "apple doesn't fall far from tree" = "the bad seed 
doesn't grow far from the other one"
Similarities/analogies: "watch/ruler" = "they have units of time 
or whatever"
 
PE:
General: HEENT: Normocephalic. Right eye exotropia. EOMI, but 
with horizontal nystagmus with lateral and superior gaze. PERLA. 
Large tongue.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops.
Abdomen: Soft, nontender, nondistended, no masses palpated
Extremities: No clubbing, cyanosis, or edema. 
Skin: Warm and dry, no rash. Scarred scratch marks on ventral 
surface of arms distal to proximal with 7 perpendicular 
horizontal inch long scars.

 
Pertinent Results:
     13.9
9.7 >----< 394
     40.6

137 | 102 | 7
----------------< 89 AGap 14
3.8 | 25  | 0.7

TSH 1.3
HIV antibody: Negative.
RPR: negative
UA: Clear yellow urine. Spec ___ 1.013. pH 6.5.
Negative for blood, nitrites, leuks, protein, glucose, ketones,
bilirubin, urobilinogen.

UCG: Negative.

Toxicology:
Serum: Negative for ASA, ethanol, acetaminophen, 
benzodiazepines,
barbiturates, tricyclics.
Urine: Negative for benzodiazepines, barbiturates, opiates,
cocaine, amphetamines, methadone.

EKG: NSR at 92. QTc 408.

CT head without contrast (from prior ED visit on ___:
Congenital malformation including partial agenesis of the corpus
callosum and  possibly a cistern of velum interpositum.  No
intraparenchymal hemorrhage.  
Recommend evaluation with MRI to further characterize congenital
malformation if outside hospital studies are unavailable. 

Brief EEG:
This is a normal EEG during waking and drowsy states. There are 
no 
focal abnormalities, epileptiform discharges or electrographic 
seizures during the study. 

 
Brief Hospital Course:
LEGAL: ___
SAFETY: She was appropriate for 15 min checks initially, then 
placed on 5 min checks due to seizurelike behaviors (see below).

PSYCHIATRIC: 
Ms. ___ received individual, group, milieu therapy. She was 
engaged in the milieu and cooperative with staff. She was 
performing her ADLs and was noted to sleep well. Her initial 
presentation was notable for history of suicidal ideation with a 
plan and several neurovegetative symptoms of depression and also 
for racing thoughts and reported CAH of devil telling patient to 
cut self. MSE was significant for euthymic affect, intact motor 
profile, no evidence of psychosis. 

#) Mood disorder NOS/vs BPD/anxiety disorder NOS:
The presentation was overall consistent with borderline 
personality disorder, however in this short time it was unclear 
whether there is an underlying primary mood disorder. 
We continued lamictal, venlafaxine and seroquel home regimen. 
Patient also had a good reaction to a trial of hydroxyzine, 
which she stated improved anxiety when used on a PRN basis. 
Patient displayed poor impulse control and was encouraged to 
engage in learning DBT skills, which she was somewhat but not 
fully engaged in practicing.
Notably she underwent several seizurelike episodes which 
appeared consistent with a diagnosis of pseudoseizure (see below 
for details). 
#) r/o benzodiazepines abuse/dependence: patient reported to 
some staff members that she was abusing benzodiazepines and 
required valium per CIWA protocol but generally low scores 
resulted in receiving only one dose; the regimen was 
discontinued with no adverse withdrawal effects. We also 
continued her home regimen of 0.5 ativan tid prn.

SOCIAL: 
Family was contacted via phone for collateral data gathering and 
treatment/discharge planning. They were not available for a 
meeting on the unit in person.

COLLATERAL: We contacted her PCP ___ psychiatrist 
___, her neurosurgery office at ___, her ___ case 
worker ___. The information they provided was 
consistent with the diagnosis of BPD. 
We also obtained records from her recent visits to ___ 
___, ___. 

MEDICAL

#) seizure-like activity: Pt has a reported history of 
non-epileptogenic seizures. Extensive workup done prior to 
admission has been negative for any current neuro etiology. 
___ neurosurgery office was contacted and though we were 
unable to obtain records from recent workups. 
On days 1 ___s 6, 7, and 8 patient had episodes of ___ 
min (only 1 min on HD#8) of seizure-like activity. They were 
characterized by inconsistent semiology, generally with 
migrating/alternating nonrhythmic shaking and stiffness in some 
or all arms and legs, eyelids shut tight, eyes midposition 
roving up and down, reaction to noxious stimuli, and 
suggestibility including seizure cessation when Ativan IM was 
suggested. No post-ictal state was observed, with pt returning 
to mental status baseline within ___ mins including some memory 
recall from within the acute event. She herself believed that 
these "episodes" were stress reactions rather than true 
electrical seizures. Brief EEG done ___ revealed no 
underlying epileptogenic brainwaves or suspected seizure focus.

#) tachycardia: patient was tachycardic initially with heart 
rate in 100s - 110s but no somatic complaints. She was 
encouraged to drink PO fluids and the high rates resolved.

#) possible exposure to STD - HIV Ab test was negative

RISK ASSESSMENT:
This patient represents a chronic risk of 
impulsive and potentially dangerous behaviors given her 
borderline personality traits. This risk would be increased if 
she has an untreated mood disorder or psychotic disorder or 
substance abuse. Howrever at this time 
her possible mood disorder is treated, and she is receiving 
treatment for BPD and thus this risk has been reduced to her 
chronic baseline level. She does not have any suicidal or 
homicidal ideation at the time of discharge. She is currently in 
good behavioral control, she is future oriented, she is free of 
psychotic or major mood symptoms and is connected with 
high-level outpt treatment. She has a good understanding of how 
to seek help in the future should she decompensate despite 
regular care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 150 mg PO DAILY 
2. LaMOTrigine 100 mg PO BID 
3. Lorazepam 0.5 mg PO TID:PRN anxiety 
4. HydrOXYzine 50 mg PO HS:PRN insomnia 
5. Quetiapine Fumarate 300 mg PO QHS 
6. traZODONE 50 mg PO HS:PRN insomnia 
7. Quetiapine Fumarate 25 mg PO TID 
8. Prazosin 2 mg PO QHS 

 
Discharge Medications:
1. LaMOTrigine 100 mg PO BID 
RX *lamotrigine 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
2. Lorazepam 0.5 mg PO TID:PRN anxiety 
RX *lorazepam 0.5 mg 1 tab by mouth three times a day Disp #*20 
Tablet Refills:*0
3. Quetiapine Fumarate 300 mg PO QHS 
RX *quetiapine 300 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0
4. Quetiapine Fumarate 25 mg PO QID:PRN anxiety 
RX *quetiapine 25 mg 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*0
5. Venlafaxine XR 150 mg PO DAILY 
RX *venlafaxine 150 mg 1 tablet(s) by mouth once a day Disp #*15 
Tablet Refills:*0
6. HydrOXYzine 25 mg PO BID:PRN severe anxiety 
RX *hydroxyzine HCl 25 mg 1 tab by mouth twice a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: mood disorder (not otherwise specified), anxiety 
disorder (not otherwise specified)
Axis II: traits of borderline personality 
Axis III:  spina bifida, ventriculoperitoneal shunt, 
pseudoseizures
 
Discharge Condition:
VS: T 98.4  BP 94/56  HR 88  RR 16  O2 100%RA

MSE: 
Appearance: caucasion woman of short stature, overweight, 
wearing
sweater and tight pants, with incoordinate gaze, hair somewhat 
disheveled
Gait: intact, stable
Behavior: good eye-contact, cooperative, no abnormal movements
Speech: nl rate, loud, articulate
Mood: 'great'
Affect: euthymic, normal range, congruent with description of
internal state
Thought Process:  linear 
Thought Content:  no evidence of AVH 
Suicidality/Homicidality: denies both currently
Insight/Judgment: both fairly limited

 
Discharge Instructions:
Dear Ms. ___, 
you were admitted to ___ because you felt unstable and 
suicidal. You improved while in the hospital. It has been a 
pleasure taking care of you. We wish you good luck in your 
recovery!

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
Followup Instructions:
___